US06448270B1
A) 4-(4-Chlorobenzyl)-1-(3-butynyl)piperidine
A mixture of 1-mesylbut-3-yne (2.22 g, 15.0 mmol), 4-(4-chlorobenzyl)piperidine hydrochloride (2.95 g, 12.0 mmol), K2CO3 (4.97 g, 36.0 mmol) in 50 mL of CH3CN is allowed to reflux for 12 hr. The inorganic salt is removed through a short column of silica gel and washed with EtOAc (3×30 mL). Evaporation of solvents gives a residue, which is purified by flash chromatography giving the product as pale yellow oil (2.67 g, 85%): 1H NMR (CDCl3) 1.31 (m, 2 H), 1.50 (m, 1 H), 1.59 (m, 2 H), 1.96 (m, 3 H), 2.38 (m, 2 H), 2.48 (m, 2 H), 2.55 (m, 2 H), 2.88 (d, J=11.1 Hz, 2 H), 7.04 (d, J=8.1 Hz, 2 H), 7.26 (d, J=8.1 Hz, 2 H).

reactant | 1-mesylbut-3-yne | 15.0 mmol, 2.22 g | S(=O)(=O)(C)CCC#C | C5H8O2S
reactant | 4-(4-chlorobenzyl)piperidine hydrochloride | 12.0 mmol, 2.95 g | Cl.ClC1=CC=C(CC2CCNCC2)C=C1
reactant | K2CO3 | 36.0 mmol, 4.97 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 4-(4-Chlorobenzyl)-1-(3-butynyl)piperidine | 2.67 g, 85% | ClC1=CC=C(CC2CCN(CC2)CCC#C)C=C1 | C16H20ClN
